US08110687B2
tert-Butyl [3-(trifluoromethyl)-5-({[7-({2-[5-(trifluoromethyl)-1H-imidazol-2-yl]-pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbonyl}amino)benzyl]carbamate (45.0 mg, 0.07 mmol) was treated with a solution of 4.0M HCl in dioxane (12.0 mL) and stirred for 1 h. The solvents were evaporated to give N-[3-(aminomethyl)-5-(trifluoromethyl)phenyl]-7-({2-5-(trifluoromethyl)-1H-imidazol-2-yl]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-332 as the HCl salt (41.0 mg, 94.9%). 1H NMR (400 MHz, d6-DMSO, HCl salt) δ: 10.58 (s, 1H), 8.54 (d, 1H), 8.31 (br s, 2H), 8.02 (d, 2H), 7.87 (s, 1H), 7.57 (s, 1H), 7.38 (d, 1H), 7.26 (d, 1H), 7.08-7.09 (m, 1H), 7.05 (d, 1H), 6.99-7.02 (m, 1H), 4.09 (q, 2H), 2.85-2.98 (m, 5H), 2.09-2.16 (m, 1H), and 1.79-1.89 (m, 1H). LCMS: (FA) ES+576.3, ES−574.4.

reactant | tert-Butyl [3-(trifluoromethyl)-5-({[7-({2-[5-(trifluoromethyl)-1H-imidazol-2-yl]-pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbonyl}amino)benzyl]carbamate | 0.07 mmol, 45.0 mg | FC(C=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C=1NC(=CN1)C(F)(F)F)(F)F | C33H31F6N5O4
reactant | HCl | 4.0M | Cl | ClH
solvent | dioxane | 12.0 mL | O1CCOCC1 | C4H8O2
product | 1,2,3,4-tetrahydronaphthalene-2-carboxamide | C1C(CCC2=CC=CC=C12)C(=O)N | C11H13NO
